data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_11924_0,[C:1]([C:5]([N:7]1[N:3]([H:8])[C:4]1([C:6](=[C:2]([H:16])[H:17])[H:11])[H:9])([H:10])[H:15])([H:12])([H:13])[H:14]>>[C:1](/[C:5](=[N:7]\[N:3](/[C:4](=[C:6](\[C:2]([H:15])([H:16])[H:17])[H:11])[H:9])[H:8])[H:10])([H:12])([H:13])[H:14],34.26965750001102
MR_289732_1,[C:1](/[C:3]([C:2]([N:5]([H:13])[H:14])([O:6][H:9])[O:8][H:12])=[N:7]/[H:15])(=[N:4]\[H:11])[H:10]>>[C:1](/[C:3]([C:2]([N:5]([H:13])[H:14])=[O:8])=[N:7]/[H:15])([N:4]([H:11])[H:12])([O:6][H:9])[H:10],25.74820749998139
MR_607527_0,[C:1]12([H:10])[N:3]([H:9])[C:2]([H:14])([H:15])[C:5]1([C:4]([N:6]([H:11])[H:12])=[O:8])[N:7]2[H:13]>>[C:1]1(/[C:5]([C:4]([N:6]([H:11])[H:12])=[O:8])=[N:7]/[H:13])([H:10])[C:2]([H:14])([H:15])[N:3]1[H:9],34.71455499999351
MR_473636_0,[C:1](/[N:4]=[C:3](\[C:2](=[O:6])[H:8])[H:9])(=[O:5])[H:7]>>[C:1](=[O:5])([O:6][C:2]1([H:8])[C:3]([H:9])=[N:4]1)[H:7],61.72340999996664
MR_124906_0,[C:1](/[N:7]=[C:5](/[N:6]=[C:2]([N:3]([H:8])[H:9])[N:4]([H:10])[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([N:7]1[C:2]([N:3]([H:8])[H:9])([N:4]([H:10])[H:11])[N:6]=[C:5]1[H:12])([H:13])([H:14])[H:15],42.843190000016165
MR_72386_1,[C:1](/[N:8]=[C:5](\[C:2]([H:15])([H:16])[H:17])[C:7]([C:3]([H:18])([H:19])[H:20])(/[C:6](=[N:4]/[H:9])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1](/[N:8]=[C:5](/[C:2]([H:15])([H:16])[H:17])[N:4](/[C:6](=[C:7](/[C:3]([H:18])([H:19])[H:20])[H:11])[H:10])[H:9])([H:12])([H:13])[H:14],63.216859999976975
MR_80210_0,[C:1]([C:3](/[C:4]([C:2]([H:15])([H:16])[H:17])=[N:8]/[H:14])=[C:7]([H:18])[H:19])([N:5]([H:10])[H:11])([N:6]([H:12])[H:13])[H:9]>>[C:1]([C:3]([N:6]([H:12])[H:13])=[C:7]([H:18])[H:19])(/[C:4]([C:2]([H:15])([H:16])[H:17])=[N:8]/[H:14])([N:5]([H:10])[H:11])[H:9],66.55704249996177
MR_295346_0,[C:1](\[C:3]([H:14])([H:15])[H:16])(=[N:6]\[H:10])[C:7]([C:2]([C:5]([H:20])([H:21])[H:22])([H:12])[H:13])([N:8]([C:4]([H:17])([H:18])[H:19])[H:9])[H:11]>>[C:1]([C:2]([C:5]([H:20])([H:21])[H:22])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([N:6]([H:9])[H:10])/[C:7](=[N:8]/[C:4]([H:17])([H:18])[H:19])[H:11],54.903112499957984
MR_379454_1,[C@@:1]12([H:11])[N:3]([H:8])[C@:5]1([C:2]([H:13])([H:14])[H:15])[C@@:4]([N:6]([H:9])[H:10])([H:12])[O:7]2>>[C:1]1([H:11])([H:12])[N:3]([H:8])[C:5]([C:2]([H:13])([H:14])[H:15])=[C:4]([N:6]([H:9])[H:10])[O:7]1,35.35083999999216
MR_485207_1,[C@:1]1([C:4]([H:18])([H:19])[H:20])([H:10])[C:2]([H:13])([H:14])[C:8]([C:5]([H:21])([H:22])[H:23])=[C:7]([N:9]([H:11])[H:12])[N:6]1[C:3]([H:15])([H:16])[H:17]>>[C@:1]1([C:4]([H:18])([H:19])[H:20])([H:10])[C:2]([H:13])([H:14])[C@:8]1([C:5]([H:21])([H:22])[H:23])/[C:7](=[N:6]/[C:3]([H:15])([H:16])[H:17])[N:9]([H:11])[H:12],61.43601499997885
MR_305060_1,[C:1](/[C:3](=[C:2](/[N:4]([H:9])[H:10])[C:5](=[C:7]([H:17])[H:18])[H:11])[N:8]=[C:6]([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:1](/[C:3](=[C:2](/[N:4]([H:9])[H:10])[N:8]=[C:6]([H:15])[H:16])[C:5](=[C:7]([H:17])[H:18])[H:11])([H:12])([H:13])[H:14],69.84890749999721
MR_666855_0,[C:1]([C:2]([H:15])([H:16])[H:17])([C:3]([H:13])([H:14])[H:18])([N:5]([N:6]([H:10])[H:11])[H:9])[C:7]([N:8][C:4]([H:19])([H:20])[H:21])[H:12]>>[C:1]1([C:2]([H:15])([H:16])[H:17])([C:3]([H:13])([H:14])[H:18])[C@@:7]([N:5]([N:6]([H:10])[H:11])[H:9])([H:12])[N:8]1[C:4]([H:19])([H:20])[H:21],72.39781249998231
MR_202897_1,[C@:1]12([H:9])[N:2]([H:8])[C@@:3]1([O:6][H:7])[C:4]([H:10])([H:11])[O:5]2>>[C:1]1([H:9])([H:10])[N:2]([H:8])[C:3]([O:6][H:7])=[C:4]([H:11])[O:5]1,28.915200000011083
MR_127639_0,[C:1]1([O:7][H:9])([H:10])[C:5]([C:2]([C:4]([H:16])([H:17])[H:18])([H:11])[H:12])([O:6][C:3]([H:13])([H:14])[H:15])[O:8]1>>[C:1]([C:5]([C:2]([C:4]([H:16])([H:17])[H:18])([H:11])[H:12])=[O:8])([O:6][C:3]([H:13])([H:14])[H:15])([O:7][H:9])[H:10],45.73094500000181
MR_205560_2,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[C:6]1([O:9][N:7]([H:11])[H:12])[C:5](=[O:10])[C:8]1([H:22])[H:23]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[C:6]([C:5]([O:9][N:7]([H:11])[H:12])=[O:10])=[C:8]([H:22])[H:23],30.369117500014227
MR_511719_1,[C:1]1([C:2]([H:12])([H:13])[H:14])([N:3]([H:8])[H:9])[C:4]([O:5][H:7])([H:11])[N:6]1[H:10]>>[C:1]([C:2]([H:12])([H:13])[H:14])([N:3]([H:8])[H:9])(/[C:4](=[N:6]/[H:10])[H:11])[O:5][H:7],28.8405274999856
MR_379453_1,[C:1]12([H:11])[N:3]([H:8])[C@@:5]([C:2]([H:13])([H:14])[H:15])([H:12])[C@:4]1([N:6]([H:9])[H:10])[O:7]2>>[C:1]1([H:11])([H:12])[N:3]([H:8])[C:5]([C:2]([H:13])([H:14])[H:15])=[C:4]([N:6]([H:9])[H:10])[O:7]1,36.87127249997005
MR_550179_1,[C:1](=[C:5]([C:3](/[C:4]([C:2]([H:15])([H:16])[H:17])=[N:8]/[H:11])([O:6][H:9])[O:7][H:10])[H:14])([H:12])[H:13]>>[C:1](/[C:5](=[C:3]([C:4](\[C:2]([H:15])([H:16])[H:17])=[N:8]\[H:11])/[O:6][H:9])[H:14])([O:7][H:10])([H:12])[H:13],59.84342000000481
MR_255553_0,[C:1](/[C:4](=[C:3](/[N:2]([O:5][H:6])[H:7])[H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([C:4](/[C:3](=[N:2]\[H:7])[H:8])([O:5][H:6])[H:9])([H:10])([H:11])[H:12],44.142742499998846
